tb_switch_v2.cir - V2: the feedback loop must never open during gain switching, three levels, two bouncing relays
* Models BOTH gain relays of ADR-026 as real contacts with real bounce:
*   K1 (SREL,   R_g3 leg on RG)    and   K5 (SREL10, R_g10 leg on RG10)
* each make with 3 bounces over 0.7 ms, each break with 2 bounces over 0.4 ms.
* RON = 50 mohm, ROFF = 1e12 ohm - i.e. a genuinely open contact, not a
* convenient large resistor.
*
* THE SEQUENCE (L27). Every transition the 3-position selector can command,
* and the two orders a real pair of relays can take on the direct 0 <-> +10:
*    0 -  5 ms   0 dB
*    5 ms        K1 makes                  0  -> +3
*   15 ms        K5 makes                  +3 -> +10
*   25 ms        K5 breaks                 +10 -> +3
*   35 ms        K1 breaks                 +3 -> 0
*   44.7 ms      K5 makes, K1 at 45 ms     0  -> +10, K5 FIRST: the bounce
*                                          passes through K5-alone, +8.73 dB -
*                                          the coil-fault state of ADR-026
*   60 ms        K1 breaks, K5 at 60.3 ms  +10 -> 0, K1 FIRST: K5-alone again
*   70 ms        end
*
* THE CLAIM UNDER TEST (ADR-004 + V2): because the relays switch R_g legs to
* ground and R_f is hard-wired, the loop stays closed in EVERY contact state.
* The falsifiable prediction: v(OUT) stays inside the +10 dB envelope at all
* times, never approaches a rail, and settles within a few loop time
* constants after each bounce. The windows below measure each steady level
* separately, so the transitions can be compared with the +10 dB envelope.
*
* The counterfactual (the arrangement ADR-004 rejected) is in
* tb_switch_v2_counterfactual.cir - run both, they are only meaningful
* together.

.include @REPO@/models/jfet/lsk489.lib
.include @REPO@/models/bjt_npn/mmbt5551.lib
.include @REPO@/models/bjt_pnp/mmbt5401.lib
.include @REPO@/models/bjt_npn/mje15032.lib
.include @REPO@/models/bjt_pnp/mje15033.lib
.include @REPO@/models/diodes/1n4148.lib
* L39 (NC-017): every active device in this deck is a vendor model from
* models/, each next to its .provenance.json:
*   LSK489   - vendor model LSK489A, the published corner sample (I_DSS
*              2.59 mA, below the group-B window of ADR-031)
*   LS352    - vendor model LS350 (ADR-018), included on the next line
*   MMBT5551 - vendor model, Diodes Inc. (ADR-017)
*   MMBT5401 - vendor model, Diodes Inc. (ADR-017)
*   MJE15032 - vendor model Qmje15032, onsemi (NC-024, NC-025)
*   MJE15033 - vendor model Qmje15033, onsemi (NC-025)
*   1N4148   - vendor model D1N914, onsemi (docs/limitations.md #20)
* Only the LSK489A carries KF: 1/f noise is on the input pair and nowhere
* else. No model carries part-to-part spread.
.include @REPO@/models/bjt_pnp/ls350.lib
.include @REPO@/spice/preamp/gain_block_flat.inc

VPP VPLUS 0 DC 15
VMM VMINUS 0 DC -15
VSRC SRCN 0 DC 0 SIN(0 0.5 1k)
RSRC SRCN IN 430

* --- the two gain relay contacts ---
.model RLYSW SW(RON=0.05 ROFF=1E12 VT=2.5 VH=0.5)
SREL RG NRG CTRL 0 RLYSW
RCONT NRG 0 0.001
CSTRAY RG 0 15p
VCTRL CTRL 0 PWL(0 0 4.999m 0 5.000m 5 5.200m 5 5.201m 0 5.400m 0
+ 5.401m 5 5.600m 5 5.601m 0 5.700m 0 5.701m 5
+ 34.999m 5 35.000m 0 35.200m 0 35.201m 5 35.400m 5 35.401m 0
+ 44.999m 0 45.000m 5 45.200m 5 45.201m 0 45.400m 0 45.401m 5
+ 45.600m 5 45.601m 0 45.700m 0 45.701m 5
+ 59.999m 5 60.000m 0 60.200m 0 60.201m 5 60.400m 5 60.401m 0 70m 0)

SREL10 RG10 NRG10 CTRL10 0 RLYSW
RCONT10 NRG10 0 0.001
CSTRAY10 RG10 0 15p
VCTRL10 CTRL10 0 PWL(0 0 14.999m 0 15.000m 5 15.200m 5 15.201m 0 15.400m 0
+ 15.401m 5 15.600m 5 15.601m 0 15.700m 0 15.701m 5
+ 24.999m 5 25.000m 0 25.200m 0 25.201m 5 25.400m 5 25.401m 0
+ 44.699m 0 44.700m 5 44.900m 5 44.901m 0 45.100m 0 45.101m 5
+ 45.300m 5 45.301m 0 45.400m 0 45.401m 5
+ 60.299m 5 60.300m 0 60.500m 0 60.501m 5 60.700m 5 60.701m 0 70m 0)

RISO   OUT OUTA 47
COUT   OUTA JACK 4.7u
RBLEED JACK 0 220k
RLOAD  JACK 0 100k

.control
* Table name tb_switch_v2_finestre.csv: no wrdata writes it (limitations #25).
* No tstart on the tran: every meas window lies inside 0-70 ms (#26).
tran 2u 70m 0 2u
wrdata tb_switch_v2_wrdata.txt v(OUT) v(JACK) v(NX) v(NY) v(CTRL) v(FB) v(CTRL10)
let vmax = maximum(v(OUT))
let vmin = minimum(v(OUT))
let nxmax = maximum(v(NX))
let nymin = minimum(v(NY))
echo "extremes over the whole 70 ms, including every bounce burst:"
print vmax vmin nxmax nymin
* steady levels, each window well after the preceding bounce burst
meas tran s0max  MAX v(out) from=1m  to=5m
meas tran s0min  MIN v(out) from=1m  to=5m
meas tran s3max  MAX v(out) from=9m  to=15m
meas tran s3min  MIN v(out) from=9m  to=15m
meas tran s10max MAX v(out) from=19m to=25m
meas tran s10min MIN v(out) from=19m to=25m
meas tran s10bmax MAX v(out) from=50m to=60m
meas tran s10bmin MIN v(out) from=50m to=60m
* transition windows: bounce burst plus settling
meas tran t03max  MAX v(out) from=5m    to=9m
meas tran t03min  MIN v(out) from=5m    to=9m
meas tran t310max MAX v(out) from=15m   to=19m
meas tran t310min MIN v(out) from=15m   to=19m
meas tran t103max MAX v(out) from=25m   to=29m
meas tran t103min MIN v(out) from=25m   to=29m
meas tran t30max  MAX v(out) from=35m   to=39m
meas tran t30min  MIN v(out) from=35m   to=39m
meas tran t010max MAX v(out) from=44.5m to=50m
meas tran t010min MIN v(out) from=44.5m to=50m
meas tran t100max MAX v(out) from=60m   to=70m
meas tran t100min MIN v(out) from=60m   to=70m
echo "finestra,vmax,vmin" > tb_switch_v2_finestre.csv
echo "regime_0db,$&s0max,$&s0min" >> tb_switch_v2_finestre.csv
echo "regime_3db,$&s3max,$&s3min" >> tb_switch_v2_finestre.csv
echo "regime_10db,$&s10max,$&s10min" >> tb_switch_v2_finestre.csv
echo "regime_10db_bis,$&s10bmax,$&s10bmin" >> tb_switch_v2_finestre.csv
echo "trans_0_3,$&t03max,$&t03min" >> tb_switch_v2_finestre.csv
echo "trans_3_10,$&t310max,$&t310min" >> tb_switch_v2_finestre.csv
echo "trans_10_3,$&t103max,$&t103min" >> tb_switch_v2_finestre.csv
echo "trans_3_0,$&t30max,$&t30min" >> tb_switch_v2_finestre.csv
echo "trans_0_10_k5_prima,$&t010max,$&t010min" >> tb_switch_v2_finestre.csv
echo "trans_10_0_k1_prima,$&t100max,$&t100min" >> tb_switch_v2_finestre.csv
.endc

.end
